US09169254B2
Triethylamine (1.27 ml, 9.11 mmol) and 4-(2-chlorosulfonyl-ethyl)-3-methyl-benzoic acid methyl ester (1.01 g, 3.65 mmol) were added to a solution of 2-(3-but-3-enyloxy-5-trifluoromethyl-phenyl)-1,3,8-triaza-spiro[4.5]dec-1-en-4-one (1.40 g, 3.83 mmol) in methylene chloride (35 ml) at 0° C. The mixture was stirred at room temperature for two hours, and then quenched with a saturated aqueous ammonium chloride solution and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous sodium sulfate and then concentrated under reduced pressure to give 4-{2-[2-(3-but-3-enyloxy-5-trifluoromethyl-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-3-methyl-benzoic acid methyl ester (2.10 g). This compound was used in the next reaction without further purification.

reactant | Triethylamine | 9.11 mmol, 1.27 ml | C(C)N(CC)CC | C6H15N
reactant | 4-(2-chlorosulfonyl-ethyl)-3-methyl-benzoic acid methyl ester | 3.65 mmol, 1.01 g | COC(C1=CC(=C(C=C1)CCS(=O)(=O)Cl)C)=O | C11H13ClO4S
reactant | 2-(3-but-3-enyloxy-5-trifluoromethyl-phenyl)-1,3,8-triaza-spiro[4.5]dec-1-en-4-one | 3.83 mmol, 1.40 g | C(CC=C)OC=1C=C(C=C(C1)C(F)(F)F)C1=NC2(C(N1)=O)CCNCC2 | C18H20F3N3O2
solvent | methylene chloride | 35 ml | C(Cl)Cl | CH2Cl2
product | 4-{2-[2-(3-but-3-enyloxy-5-trifluoromethyl-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-3-methyl-benzoic acid methyl ester | 2.10 g | COC(C1=CC(=C(C=C1)CCS(=O)(=O)N1CCC2(C(NC(=N2)C2=CC(=CC(=C2)C(F)(F)F)OCCC=C)=O)CC1)C)=O | C29H32F3N3O6S
